US04648896
5-Acetoxy-4,6-dichloro-2-phenylpyrimidine
A solution of 3.1 g of 4,6-dichloro-5-hydroxy-2-phenylpyrimidine, 2.8 ml of trimethylamine, 1.6 ml of acetic anhydride and 0.1 g of 4-dimethylaminopyrimidine in 50 ml of toluene is stirred for 4 hours at 20°-25° C. The reaction solution is subsequently diluted with ethyl acetate, washed with water and dried. On concentration by evaporation, there crystallise 4.3 g of 5-acetoxy-4,6-dichloro-2-phenylpyrimidine, m.p. 145°-147° C. (compoud No. 36).

reactant | 4,6-dichloro-5-hydroxy-2-phenylpyrimidine | 3.1 g | ClC1=NC(=NC(=C1O)Cl)C1=CC=CC=C1 | C10H6Cl2N2O
reactant | trimethylamine | 2.8 ml | CN(C)C | C3H9N
reactant | acetic anhydride | 1.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-dimethylaminopyrimidine | 0.1 g | CN(C1=NC=NC=C1)C | C6H9N3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Acetoxy-4,6-dichloro-2-phenylpyrimidine | C(C)(=O)OC=1C(=NC(=NC1Cl)C1=CC=CC=C1)Cl | C12H8Cl2N2O2
